US08431607B2
(4S,5S)-3-(4-chlorophenyl)-4-(3-methoxyphenyl)-5-((4-phenyl-1H-imidazol-1-yl)methyl)oxazolidin-2-one
A small reaction tube fitted with a screw cap is charged with ((4S,5R)-3-(4-chlorophenyl)-4-(3-methoxyphenyl)-2-oxooxazolidin-5-yl)methyl methanesulfonate (50 mg, 0.12 mmol) and DMF (1 mL). Phenylimidazole (35 mg, 0.24 mmol) is added followed by cesium carbonate (39 mg, 0.12 mmol) and the mixture is heated to 70° C. overnight. The reaction is then cooled to room temperature, quenched with water and extracted with EtOAc. The combined organics are washed with water, dried over MgSO4, filtered, concentrated, and purified by preparative HPLC (C-18, 10-90% ACN/water (0.05% TFA)) to give the title compound. 1H NMR (acetone-d6, 400 MHz) δ 7.80-7.78 (m, 3H), 7.68 (d, J=1.2 Hz, 1H), 7.46-7.42 (m, 2H), 7.34-7.17 (m, 6H), 6.96-6.93 (m, 2H), 6.89 (ddd, J=8.2, 2.5, 0.8 Hz, 1H), 5.46 (d, J=5.2 Hz, 1H), 4.83 (ddd, J=6.0, 5.0, 5.0 Hz, 1H), 4.70-4.69 (m, 2H), 3.72 (s, 3H); HPLC-MS calculated C26H22ClN3O3 (M+H+) 460.1, found 460.1.

reactant | ((4S,5R)-3-(4-chlorophenyl)-4-(3-methoxyphenyl)-2-oxooxazolidin-5-yl)methyl methanesulfonate | 0.12 mmol, 50 mg | CS(=O)(=O)OC[C@H]1[C@@H](N(C(O1)=O)C1=CC=C(C=C1)Cl)C1=CC(=CC=C1)OC | C18H18ClNO6S
reactant | Phenylimidazole | 0.24 mmol, 35 mg | C1(=CC=CC=C1)C=1NC=CN1 | C9H8N2
reactant | cesium carbonate | 0.12 mmol, 39 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (4S,5S)-3-(4-chlorophenyl)-4-(3-methoxyphenyl)-5-((4-phenyl-1H-imidazol-1-yl)methyl)oxazolidin-2-one | ClC1=CC=C(C=C1)N1C(O[C@H]([C@@H]1C1=CC(=CC=C1)OC)CN1C=NC(=C1)C1=CC=CC=C1)=O | C26H22ClN3O3
